US08049006B2
N-[5-(aminosulfonyl)-2-chlorophenyl]-2,2,2-trifluoroacetoamide (Compound S57)
A solution of 3-amino-4-chlorobenzenesulfonamide (3.1 g) and trifluoroacetic acid anhydride (2.2 ml) in tetrahydrofuran (30 ml) was stirred at room temperature for 4 hours. The reaction solution was concentrated and the residue was recrystallized from hexane-ethyl acetate to obtain the title compound (3.07 g).

reactant | 3-amino-4-chlorobenzenesulfonamide | 3.1 g | NC=1C=C(C=CC1Cl)S(=O)(=O)N | C6H7ClN2O2S
reactant | trifluoroacetic acid anhydride | 2.2 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-[5-(aminosulfonyl)-2-chlorophenyl]-2,2,2-trifluoroacetoamide | 3.07 g | NS(=O)(=O)C=1C=CC(=C(C1)NC(C(F)(F)F)=O)Cl | C8H6ClF3N2O3S
